US04785090
1-(2,2,2-Trifluoroethyl)-4-pyridone
1 g (10.4 mmol) of 4H-pyran-4-on was dissolved in 10 ml of pyridine, 3.38 g (25 mmol) of 2,2,2-trifluoroethylamine hydrochloride was added, and reacted at 70° C. for an hour. The solvent was removed, and the residue was purified by chloroform-methanol (10:1) silica gel chromatograph to obtain 1.7 g of the title compound.

reactant | 4H-pyran-4-on | 10.4 mmol, 1 g | O1C=CC(C=C1)=O | C5H4O2
reactant | 2,2,2-trifluoroethylamine hydrochloride | 25 mmol, 3.38 g | Cl.FC(CN)(F)F
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2,2,2-Trifluoroethyl)-4-pyridone | 1.7 g | FC(CN1C=CC(C=C1)=O)(F)F | C7H6F3NO
